US08937185B2
To a solution of 1-(2-Chloro-6-fluoro-4-trifluoromethyl-phenyl)-5-methyl-4-trifluoromethylsulfanyl-1H-pyrazole-3-carboxylic acid ethyl ester (1.2 g, 2.7 mmol) in dichloromethane (6 mL) was added trifluoroacetic acid (2.4 mL) at 0° C. To the reaction mixture was added an aqueous solution of hydrogen peroxide (30 wt %, 0.9 g, 8.3 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 6 h. The reaction was quenched by addition of a solution of sodium bisulfite (0.8 g) in water (12 mL). The resulting mixture was extracted with dichloromethane. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by column chromatography, elution with heptanes/EtOAc, to give 1-(2-Chloro-6-fluoro-4-trifluoromethyl-phenyl)-5-methyl-4-trifluoromethanesulfinyl-1H-pyrazole-3-carboxylic acid ethyl ester as a white solid (1.2 g, 2.6 mmol, 99%). 1H NMR (400 MHz, CDCl3) δ ppm 1.42 (t, J=7.1 Hz, 3H), 2.51 (s, 3H), 4.36-4.55 (m, 2H), 7.54 (dd, J=8.3, 1.6 Hz, 1H), 7.72 (s, 1H). 19F NMR (376 MHz, CDCl3) δ ppm −113.2 (d, J=7.9 Hz, 0.5F), −112.8 (d, J=9.2 Hz, 0.5F), −74.0 (s, 1.5F), −73.8 (s, 1.5F), −63.8 (s, 3F).

reactant | 1-(2-Chloro-6-fluoro-4-trifluoromethyl-phenyl)-5-methyl-4-trifluoromethylsulfanyl-1H-pyrazole-3-carboxylic acid ethyl ester | 2.7 mmol, 1.2 g | C(C)OC(=O)C1=NN(C(=C1SC(F)(F)F)C)C1=C(C=C(C=C1F)C(F)(F)F)Cl | C15H10ClF7N2O2S
reactant | trifluoroacetic acid | 2.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen peroxide | 8.3 mmol, 0.9 g | OO | H2O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 1-(2-Chloro-6-fluoro-4-trifluoromethyl-phenyl)-5-methyl-4-trifluoromethanesulfinyl-1H-pyrazole-3-carboxylic acid ethyl ester | 2.6 mmol, 1.2 g, 99% | C(C)OC(=O)C1=NN(C(=C1S(=O)C(F)(F)F)C)C1=C(C=C(C=C1F)C(F)(F)F)Cl | C15H10ClF7N2O3S
